US08703953B2
To a stirred solution of 2-((tert-butoxycarbonyl)amino)-5,5,5-trifluoropentanoic acid (500 mg, 1.843 mmol) in THF (15 ml) cooled to −10° C. under a nitrogen atmosphere was added N-methylmorpholine (0.223 ml, 2.028 mmol) followed by isobutyl chloroformate (0.266 ml, 2.028 mmol) dropwise and stirred for 30 min. The reaction mixture was filtered. The filtrate was added to sodium borohydride (147 mg, 3.87 mmol) in water (10 mL) and stirred for 5 min. The mixture was diluted with ethyl acetate (10 mL). The organic layer was separated and washed with brine (2×10 mL), dried (Na2SO4) and evaporated under reduced pressure to afford tert-butyl(5,5,5-trifluoro-1-hydroxypentan-2-yl)carbamate (400 mg, 1.55 mmol, 84% yield) as a white solid which was taken to the next step without any purification. 1H NMR (400 MHz, CDCl3) δ 3.73-3.59 (m, 3H), 2.24-2.16 (m, 2H), 1.87-1.69 (m, 2H), 1.44 (s, 9H).

reactant | 2-((tert-butoxycarbonyl)amino)-5,5,5-trifluoropentanoic acid | 1.843 mmol, 500 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CCC(F)(F)F | C10H16F3NO4
reactant | N-methylmorpholine | 2.028 mmol, 0.223 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.028 mmol, 0.266 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 3.87 mmol, 147 mg | [BH4-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl(5,5,5-trifluoro-1-hydroxypentan-2-yl)carbamate | 1.55 mmol, 400 mg, 84% yield | C(C)(C)(C)OC(NC(CO)CCC(F)(F)F)=O | C10H18F3NO3
